US09359381B2
Step 2: 6-((2,2-Dimethyl-1,3-dioxolan-4-yl)methyl)-5-(3-fluorophenyl)-1,3-dimethyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione
Sodium hydride (60% in mineral oil) (234 mg, 5.86 mmol) was added portionwise to a solution of 5-(3-fluorophenyl)-1,3-dimethyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione (Intermediate Nf) (1000 mg, 3.66 mmol) and dibenzo-18-crown-6 (132 mg, 0.366 mmol) in DMF (28.1 mL) at 0° C. The solution was warmed to room temperature and stirred for 20 minutes, then re-cooled to 0° C. (2,2-Dimethyl-1,3-dioxolan-4-yl)methyltrifluoromethane sulfonate (Intermediate Sb) (1547 mg, 5.86 mmol) was added dropwise over 5 minutes. The mixture was warmed to room temperature and stirred for 3 hours. The reaction was quenched with saturated NH4Cl(aq) (10 mL) and extracted with DCM (3×30 mL). The combined organic extracts were dried over magnesium sulfate and evaporated under vacuum to afford the title compound as a red/brown amorphous solid.

reactant | Sodium hydride | 5.86 mmol, 234 mg | [H-].[Na+]
reactant | 5-(3-fluorophenyl)-1,3-dimethyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | 3.66 mmol, 1000 mg | FC=1C=C(C=CC1)C=1NC=C2N(C(N(C(C21)=O)C)=O)C | C14H12FN3O2
reactant | dibenzo-18-crown-6 | 0.366 mmol, 132 mg | C1COC2=CC=CC=C2OCCOCCOC3=CC=CC=C3OCCO1 | C20H24O6
reactant | (2,2-Dimethyl-1,3-dioxolan-4-yl)methyltrifluoromethane sulfonate | 5.86 mmol, 1547 mg | CC1(OCC(O1)COS(=O)(=O)C(F)(F)F)C | C7H11F3O5S
solvent | DMF | 28.1 mL | CN(C)C=O | C3H7NO
product | 6-((2,2-Dimethyl-1,3-dioxolan-4-yl)methyl)-5-(3-fluorophenyl)-1,3-dimethyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | CC1(OCC(O1)CN1C=C2N(C(N(C(C2=C1C1=CC(=CC=C1)F)=O)C)=O)C)C | C20H22FN3O4
